US07704995B2
A solution of of methyl 3-(methylamino)-6-phenylpyrazine-2-carboxylate (31 mg, 0.13 mmol) in methanol (5 ml) was saturated with ammonia at 0° C. The pressure tube was sealed and heated at 80-85° C. overnight. The reaction was cooled to room temperature and the solvent removed at reduced pressure to afford crude solid product. Reverse-phase BPLC purification gave 3-(methylamino)-6-phenylpyrazine-2-carboxamide (7 mg, 25% yield) as a yellow solid: 1H NM (400 MHz, CDCl3): δ 8.42 (s, 1H), 8.50 (br s, 1H), 7.90 (d, 3H), 7.45 (m, 2H), 7.40 (m, 1H), 3.10 (br s, 3H); MS (EI) for C12H12N40: 229 (MH+).

reactant | methyl 3-(methylamino)-6-phenylpyrazine-2-carboxylate | 0.13 mmol, 31 mg | CNC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)OC | C13H13N3O2
reactant | ammonia | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 3-(methylamino)-6-phenylpyrazine-2-carboxamide | 7 mg, 25% yield | CNC=1C(=NC(=CN1)C1=CC=CC=C1)C(=O)N | C12H12N4O
